US04346087
Into an apparatus similar to that in Example 1, where charged 299.5 g (1 mole) of N-tetradecyldiethylenetriamine and 130.1 g (1 mole) of methyl 3-formyl-2-methylpropionate. At 145° to 150° C., 18 g of water and 32 g of methanol were distilled off to obtain 4-tetradecylaminoethyl-6-methyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one.

reactant | N-tetradecyldiethylenetriamine | 1 mole, 299.5 g | C(CCCCCCCCCCCCC)NCCNCCN | C18H41N3
reactant | methyl 3-formyl-2-methylpropionate | 1 mole, 130.1 g | C(=O)CC(C(=O)OC)C | C6H10O3
product | 4-tetradecylaminoethyl-6-methyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one | C(CCCCCCCCCCCCC)NCCN1CCN=CCC(C1=O)C | C23H45N3O
